US07888364B2
Procedure F was performed using 80 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 209 mg of 1-Boc-piperizine in 1 mL of BuOH. The reaction mixture was evaporated to afford tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate. 150 mg of tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate was treated with TFA (1 mL) containing trace amounts of H2O for 2 h. The reaction mixture was diluted with ethyl acetate, washed with 0.1N sodium hydroxide and brine, dried (MgSO4) and evaporated. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(piperazin-1-yl)nicotinamide. MS (Q1) 408.3 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 80 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | 1-Boc-piperizine | 209 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | BuOH | 1 mL | C(CCC)O | C4H10O
product | tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate | ClC1=C(C=C(C=C1)NC(=O)C=1C=CC(=NC1C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C27H30ClN5O3
